US07626021B2
650 mg (1.35 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine, 449 mg (1.35 mmol max.) of 2-amino-5-iodo-3-methyl-benzoic acid and 55 mg (67 μmol) of dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct were placed in a vial. 10 mL of acetonitrile and 10 mL of a saturated aqueous solution of sodium bicarbonate were added. The vial was closed and the mixture irradiated in a Personal Chemistry® Optimizer to 120° C. for 20 min. The crude mixture was distributed between dichloromethane and water, adjusting the pH to 4-5 by addition of 10% aqueous citric acid. The aqueous layer was extracted three times with ethyl acetate. The combined organic phases were washed with a saturated aqueous solution of sodium bromide, dried over sodium sulfate and evaporated. The crude was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 551 mg (1.09 mmol, 81%) of 2-amino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-3-methyl-benzoic acid as a beige solid. MS: m/z 505.1 (M+H+), 528.1 (M+Na+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 1.35 mmol, 650 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | 2-amino-5-iodo-3-methyl-benzoic acid | 1.35 mmol, 449 mg | NC1=C(C(=O)O)C=C(C=C1C)I | C8H8INO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 67 μmol, 55 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-amino-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-3-methyl-benzoic acid | 1.09 mmol, 551 mg, 81% | NC1=C(C(=O)O)C=C(C=C1C)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C27H32N4O4Si
